US08030300B2
5-(6-Fluoro-1-hexynyl)-3-(1-tert-butoxycarbonyl-2(S) -azetidinylmethoxy)pyridine:
A mixture of 5-(6-tosyloxy-1-hexynyl)-3-(1-tert-butoxycarbonyl -2(S)-azetidinylmethoxy)pyridine (35 mg, 68 μmol) in 1 mL of 1.0 M solution of TBAF in THF was stirred at room temperature for 10 h. The reaction mixture concentrated. The residue was purified by chromatography with hexane-EtOAc (3:1) to give a viscous oil (25 mg, 100%), [α]D−40.6 (c 1.4, CHCl3). 1H NMR (CDCl3) δ 8.24 (s, 2H), 7.24 (m, 1H), 4.52 (dt, 2H, J=47.3, 6.0 Hz), 4.56-4.47 (m, 1H), 4.38-4.26 (m, 1H), 4.12 (dd, 1H, J=10.2, 2.7 Hz), 3.89 (t, 2H, J=7.8 Hz), 2.50 (t, 2H, J=6.9 Hz), 2.42-2.21 (m, 2H), 2.04-1.69 (m, 4H), 1.42 (s, 9H); 13C NMR (CDCl3) δ 156.13, 154.40, 144.85, 137.26, 123.22, 121.05, 92.94, 83.54 (d, J=164.7 Hz), 79.74, 77.69, 68.69, 60.00, 53.62, 47.09, 29.53 (d, J=20.2 Hz), 28.38, 24.31 (d, J=5.0 Hz), 19.03; 19F NMR (CDCl3, CFCl3) δ 135.4 (tt, J=47.3, 24.4 Hz).

reactant | 5-(6-tosyloxy-1-hexynyl)-3-(1-tert-butoxycarbonyl -2(S)-azetidinylmethoxy)pyridine | 68 μmol, 35 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCC#CC=1C=C(C=NC1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C27H34N2O6S
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | 5-(6-Fluoro-1-hexynyl)-3-(1-tert-butoxycarbonyl-2(S) -azetidinylmethoxy)pyridine | 25 mg, 100% | FCCCCC#CC=1C=C(C=NC1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C20H27FN2O3
